US06388088B1
A suspension of (E)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cycloheptyl-N-thiazol-2-yl-acrylamide (300 mg, 0.69 mmol) and N-bromosuccinimide (123 mg, 0.69 mmol) in carbon tetrachloride (3 mL) at 25° C. was treated with benzoyl peroxide (8.4 mg, 0.035 mmol). The resulting reaction mixture was heated to 90° C. where it was stirred overnight at this temperature. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo. The residue was dissolved in ethyl acetate (50 mL). The organic phase was then washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 4/1 hexanes/ethyl acetate) afforded (E)-N-(5-bromo-thiazol-2-yl)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3 cycloheptyl-acrylamide (118 mg, 33%) as an amorphous solid: EI-HRMS m/e calcd for C21H22BrClN6OS (M+) 520.0448, found 520.0448.

reactant | (E)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cycloheptyl-N-thiazol-2-yl-acrylamide | 0.69 mmol, 300 mg | ClC=1C=C(C=CC1N1N=NN=C1C)/C(/C(=O)NC=1SC=CN1)=C\C1CCCCCC1 | C21H23ClN6OS
reactant | N-bromosuccinimide | 0.69 mmol, 123 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.035 mmol, 8.4 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (E)-N-(5-bromo-thiazol-2-yl)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3 cycloheptyl-acrylamide | 118 mg, 33% | BrC1=CN=C(S1)NC(\C(=C\C1CCCCCC1)\C1=CC(=C(C=C1)N1N=NN=C1C)Cl)=O | C21H22BrClN6OS
